US07384934B2
(S)-10-[4-Methyl-3-(2-phenylsulfanylethyl)piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene dihydrochloride
Combine (S)-10-[3-(2-phenylsulfanyl-ethyl)piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene (0.118 g, 0.271 mmol), formaldehyde (24 μL, 0.299 mmol, 37% aqueous solution), and sodium triacetoxyborohydride (86 mg, 0.407 mmol) in dichloroethane (10 mL) and stir at room temperature for 2 hours. Dilute the mixture with saturated aqueous sodium bicarbonate and extract three times with dichloromethane. Combine the organic layers, dry over sodium sulfate and concentrate under reduced pressure. Purification by flash chromatography, eluting with a step gradient starting with dichloromethane going to 6% 2N ammonia-methanol in dichloromethane gives the free base of the title compound. Isolate clean product as the corresponding dihydrochloride by dissolving the free base in ethanol and adding a solution of 5 equivalents of hydrochloric acid in ethanol. Evaporating the solution and drying the salt provides the title compound (0.089 g, 0.189 mmol, 70%) as a brown solid. Mass spectrum (APCI): m/z=449.1 (M+1 of free base).

reactant | (S)-10-[3-(2-phenylsulfanyl-ethyl)piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene | 0.271 mmol, 0.118 g | C1(=CC=CC=C1)SCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C24H26N4S2
reactant | formaldehyde | 0.299 mmol, 24 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.407 mmol, 86 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S)-10-[4-Methyl-3-(2-phenylsulfanylethyl)piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene dihydrochloride | Cl.Cl.CN1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)CCSC2=CC=CC=C2 | InChI=1S/C25H28N4S2.2ClH/c1-18-16-21-24(26-22-10-6-7-11-23(22)27-25(21)31-18)29-14-13-28(2)19(17-29)12-15-30-20-8-4-3-5-9-20;;/h3-11,16,19,27H,12-15,17H2,1-2H3;2*1H/t19-;;/m0../s1
